US06225316B1
c) (3,5-Bis-trifluoromethyl-benzyl)-(3-o-tolyl-pyridin-4-ylmethyl)-amine
To a solution of 0.26 g (0.59 mmol) N-(3,5-bis-trifluoromethyl-benzyl)-3-o-tolyl-isonicotinamide in 5 ml tetrahydrofuran 3.6 ml of a 1M solution of BH3 in tetrahydrofuran was added and the reaction mixture stirred for 16 h at 60°. After addition of 5 ml 3M HCl in ether the reaction mixture was stirred for 3 h at 60° C. The solution was cooled to room temperature and 10 ml 3N sodium hydroxide solution and 10 ml ethyl acetate were added. Stirring was continued for ½ h, the phases separated and the aqueous phase extracted twice with 15 ml ethyl acatate. The combined organic layers were washed with brine, dried (magnesium sulfate) and evaporated. Chromatography of the residue afforded 0.13 g (51%) of the title compound as a pale yellow oil.

reactant | N-(3,5-bis-trifluoromethyl-benzyl)-3-o-tolyl-isonicotinamide | 0.59 mmol, 0.26 g | FC(C=1C=C(CNC(C2=C(C=NC=C2)C2=C(C=CC=C2)C)=O)C=C(C1)C(F)(F)F)(F)F | C22H16F6N2O
reactant | HCl | 3M, 5 ml | Cl | ClH
reactant | sodium hydroxide | 3N, 10 ml | [OH-].[Na+]
reactant | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | (3,5-Bis-trifluoromethyl-benzyl)-(3-o-tolyl-pyridin-4-ylmethyl)-amine | 0.13 g, 51% | FC(C=1C=C(CNCC2=C(C=NC=C2)C2=C(C=CC=C2)C)C=C(C1)C(F)(F)F)(F)F | C22H18F6N2
